US09034874B2
a) 2-(benzyloxy)-5-bromopyridine
To a solution of 5-bromopyridin-2(1H)-one (1.28 g, 7.36 mmol) and Ag2CO3 (3 g, 11.04 mmol) in toluene (50 mL) was added (bromomethyl)benzene (1.25 g, 7.36 mmol) dropwise and the reaction mixture was stirred at 100° C. over night. The reaction mixture was filtered through a short pad of silica gel and washed with DCM. The filtrate was concentrated to yield the title compound as light yellow oil (1.8 g, 95%).

reactant | 5-bromopyridin-2(1H)-one | 7.36 mmol, 1.28 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | (bromomethyl)benzene | 7.36 mmol, 1.25 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(benzyloxy)-5-bromopyridine | 1.8 g, 95% | C(C1=CC=CC=C1)OC1=NC=C(C=C1)Br | C12H10BrNO
